US04448847
A THF solution of acetophenone (6.2 g) is added to a tetrahydrofuran suspension of NaNH2 (4.0 g). The mixture is stirred at room temperature for ten minutes. Ethyl benzoate (15.5 g) is then added to the mixture. A gelatinous precipitate forms over the course of 24 hours. The mixture is added to an aqueous solution of HCl to neutralize the sodium amide and the sodium salt of the β-diketone. The mixture is then extracted with chloroform. The organic layer is stripped on a rotary evaporator. 1,3-diphenyl-1,3-propanedione is isolated from the residue by precipitating its copper salt. Decomposition of the complex with HCl yields the desired product in pure form. NMR analysis confirms the expected structure.

reactant | acetophenone | 6.2 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | Ethyl benzoate | 15.5 g | C(C1=CC=CC=C1)(=O)OCC | C9H10O2
reactant | HCl | Cl | ClH
reactant | sodium amide | [NH2-].[Na+]
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 1,3-diphenyl-1,3-propanedione | C1(=CC=CC=C1)C(CC(=O)C1=CC=CC=C1)=O | C15H12O2
